US04221919
3-chloro-4-(4'-isobutylbenzyloxy) phenylacetic acid was prepared in accordance with the procedure designated (f) above by reacting 4-isobutylbenzyl chloride and methyl 3-chloro-4-hydroxyphenylacetate. The resultant product evidenced a melting point of 97°-99° C. (methanol-water 4:1), the yield being 61%.

reactant | 4-isobutylbenzyl chloride | C(C(C)C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | methyl 3-chloro-4-hydroxyphenylacetate | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
solvent | methanol water | CO.O
product | 3-chloro-4-(4'-isobutylbenzyloxy) phenylacetic acid | ClC=1C=C(C=CC1OCC1=CC=C(C=C1)CC(C)C)CC(=O)O | C19H21ClO3
